US05232923
Ethyl 3,4-diacetoxyphenylpropionate and n-hexylamine were used to obtain N-n-Hexyl-3,4-dihydroxyphenylpropionamide by carrying out the same procedures as described in Example 1.

reactant | Ethyl 3,4-diacetoxyphenylpropionate | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | n-hexylamine | C(CCCCC)N | C6H15N
product | N-n-Hexyl-3,4-dihydroxyphenylpropionamide | C(CCCCC)NC(C(C)C1=CC(=C(C=C1)O)O)=O | C15H23NO3
